US07741341B2
5-Chloro-1H-benzoimidazole-2-carboxylic acid benzylamide
A solution of 120.0 mg (0.45 mmol) 5-chloro-2-trichloromethyl-1H-benzoimidazole in 2 mL tetrahydrofuran (THF) was added slowly to a mixture of 53.5 μl (0.49 mmol) benzylamine and 373.8 mg (4.45 mmol, 10 equiv.) NaHCO3 in 8 mL THF and 4 mL water. The reaction mixture was stirred for 2 h at room temperature (20° C. to 25° C. in the following RT). The suspension was filtered and the filtrate was concentrated under reduced pressure. After purification by preparative RP-HPLC (CH3CN/H2O gradient and 0.05% formic acid) pure 5-Chloro-1H-benzoimidazole-2-carboxylic acid benzylamide was obtained as a white amorphous solid.

reactant | 5-chloro-2-trichloromethyl-1H-benzoimidazole | 0.45 mmol, 120.0 mg | ClC1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C=C1 | C8H4Cl4N2
reactant | benzylamine | 0.49 mmol, 53.5 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | NaHCO3 | 4.45 mmol, 373.8 mg, 10 equiv. | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | THF | 8 mL | O1CCCC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 5-Chloro-1H-benzoimidazole-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=NC2=C(N1)C=CC(=C2)Cl | C15H12ClN3O
